US07943652B2
Following procedures analogous to those described in Example 6 and use triphenyl-(2-trimethylsilanyl-ethoxymethyl) phosphonium chloride, 2-methyl-imidazo[1,2-a]pyridine-3-carbaldehyde was converted into 2-methyl-3-[2-(2-trimethylsilanyl-ethoxy)-vinyl]-imidazo[1,2-a]pyridine (96% yield).

reactant | triphenyl-(2-trimethylsilanyl-ethoxymethyl) phosphonium chloride | [Cl-].C1(=CC=CC=C1)[P+](COCC[Si](C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 2-methyl-imidazo[1,2-a]pyridine-3-carbaldehyde | CC=1N=C2N(C=CC=C2)C1C=O | C9H8N2O
product | 2-methyl-3-[2-(2-trimethylsilanyl-ethoxy)-vinyl]-imidazo[1,2-a]pyridine | 96% yield | CC=1N=C2N(C=CC=C2)C1C=COCC[Si](C)(C)C | C15H22N2OSi
